US09353066B2
TFA (1 mL) was added to a solution of the tert-butyl 8-[2-(biphenyl-3-ylamino)-5-cyanopyrimidin-4-yl]-2,8-diazaspiro[4.5]decane-2-carboxylate (24 mg, 0.047 mmol) in CH2Cl2 (1 mL) was added and stirred at room temperature for 1 hour. The reaction mixture was concentrated in vacuo to afford 2-(biphenyl-3-ylamino)-4-(2,8-diazaspiro[4.5]dec-8-yl)pyrimidine-5-carbonitrile as a white solid. MS ESI calcd. for C25H27N6 [M+H]+ 411, found 411. 1H NMR (400 MHz, DMSO) δ 10.25 (s, 1H), 9.08 (s, 1H), 8.72 (s, 1H), 8.32 (s, 1H), 7.87 (d, 7.9 Hz, 2H), 7.85 (s, 1H), 7.74 (t, J=7.6 Hz, 2H), 7.69-7.59 (m, 2H), 7.57 (d, J=7.8 Hz, 1H), 4.31-4.14 (m, 2H), 4.14-4.04 (m, 2H), 3.65-3.43 (m, 2H), 3.32 (t, J=5.6 Hz, 2H), 2.13 (t, J=7.4 Hz, 2H), 1.94-1.92 (br m, 4H).

reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 8-[2-(biphenyl-3-ylamino)-5-cyanopyrimidin-4-yl]-2,8-diazaspiro[4.5]decane-2-carboxylate | 0.047 mmol, 24 mg | C1(=CC(=CC=C1)NC1=NC=C(C(=N1)N1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1)C#N)C1=CC=CC=C1 | C30H34N6O2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 2-(biphenyl-3-ylamino)-4-(2,8-diazaspiro[4.5]dec-8-yl)pyrimidine-5-carbonitrile | C1(=CC(=CC=C1)NC1=NC=C(C(=N1)N1CCC2(CCNC2)CC1)C#N)C1=CC=CC=C1 | C25H26N6
